US04025547
To a deoxygenated, substantially water-free sample of allyl alcohol (68 ml, 1 mole) contained in the glass-liner pressure reactor of Example 1(A) is charged, under a nitrogen purge with stirring, 0.96 g of tin(II) chloride (5.0 mmole) and 0.35 g of PdCl2 [P(C6H5)3 ]2 (0.5 mmole). Stirring is continued for 2-5 minutes. The reactor is flushed and pressurized with CO to 2000 psig and the sealed reactor heated to 80° C. for twelve hours. On cooling, 59.0 g of reddish-brown liquid is recovered. Distillation under reduced pressure (2-5 mm) produces an allyl vinylacetate fraction (9.4 gm) with purity greater than 98% (Yield 0.075 mole).

reactant | allyl alcohol | 1 mole, 68 ml | C(C=C)O | C3H6O
reactant | tin(II) chloride | 5.0 mmole, 0.96 g | [Sn](Cl)Cl
reactant | P(C6H5)3 | P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | water | O | H2O
catalyst | PdCl2 | 0.35 g | Cl[Pd]Cl
product | allyl vinylacetate | C(=C)CC(=O)OCC=C | C7H10O2
